US04375427
Into a 1 L 3-necked round-bottomed flask equipted with a reflux condenser, nitrogen inlet, magnetic stirring bar and a heating mantle was place 4.63 g (0.122 mol) of LiAlH4, and 600 mL of dry tetrahydrofuran (THF) (distilled from benzophenone ketyl). To this was added 18.31 g (0.0489 mol) of 3,7-dibromodibenzothiophene-5,5-dioxide. The mixture was stirred overnight at room temperature, then refluxed for 1 hour. To the cooled mixture was added 5 mL H2O, 5 mL of 15% NaOH, followed by 15 mL of water. After stirring for 2 hours at room temperature the coagulated salts were filtered and washed with THF. The combined THF extracts were condensed to give 20 g of crude material. This was taken up into 1.5 L of hot ethanol, filtered and cooled. The yellow precipitate was suction filtered and air dried to give 5.2 g of 3,7-dibromodibenzothiophene: mp 174.5-176. Molecular ions by mass spectroscopy had molecular weights of 340, 342 and 344 (due to different isotopes of Br).

reactant | LiAlH4 | 0.122 mol, 4.63 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
reactant | 3,7-dibromodibenzothiophene-5,5-dioxide | 0.0489 mol, 18.31 g | BrC=1C=CC2=C(S(C3=C2C=CC(=C3)Br)(=O)=O)C1 | C12H6Br2O2S
reactant | NaOH | 5 mL | [OH-].[Na+]
solvent | ethanol | 1.5 L | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
solvent | H2O | 5 mL | O | H2O
product | 3,7-dibromodibenzothiophene | 5.2 g | BrC=1C=CC2=C(SC3=C2C=CC(=C3)Br)C1 | C12H6Br2S
